US06627651B1
A mixture of ethynylbenzene (511 mg, 5.00 mmol), methyl 7-bromo-2,3-dihydro-1-benzooxepine-4-carboxylate (708 mg, 2.50 mmol), dichlorobis(triphenylphosphine)palladium (176 mg, 0.25 mmol), copper iodide (48 mg, 0.25 mmol) and triethylamine (15 ml) was stirred at 80° C. for 17 hours. The reaction mixture was concentrated under reduced pressure and was mixed with ethyl acetate (70 ml), and the resulting mixture was washed successively with 1 N hydrochloric acid (5 ml×3) and an aqueous saturated solution of sodium chloride (5 ml). The organic layer was dried with anhydrous magnesium sulfate and was then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 35 g, ethyl acetate/hexane=1/19). The objective fractions were concentrated under reduced pressure and were mixed with diisopropyl ether, and an insoluble material was collected by filtration. The insoluble material was washed with diisopropyl ether and was then dried under reduced pressure to obtain methyl 7-phenylethynyl-2,3-dihydro-1-benzooxepine-4-carboxylate (525 mg, 1.73 mmol, 69%).

reactant | ethynylbenzene | 5.00 mmol, 511 mg | C(#C)C1=CC=CC=C1 | C8H6
reactant | methyl 7-bromo-2,3-dihydro-1-benzooxepine-4-carboxylate | 2.50 mmol, 708 mg | BrC=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C12H11BrO3
catalyst | dichlorobis(triphenylphosphine)palladium | 0.25 mmol, 176 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.25 mmol, 48 mg | [Cu](I)I
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | methyl 7-phenylethynyl-2,3-dihydro-1-benzooxepine-4-carboxylate | 1.73 mmol, 525 mg, 69% | C1(=CC=CC=C1)C#CC=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C20H16O3
